US08614214B2
To a solution of p-aminophenol 10.9 g (0.1 mol), sodium bicarbonate 10.08 g (0.12 mol) and 150 mL water in 250 mL tetrahydrofuran was added di-tert-butyl dicarbonate 25.0 g (0.115 mol). The reaction mixture was continued stirring at room temperature for 24 hours, and monitored by TLC until the reaction was over, the mixture was concentrated under reduced pressure and extracted with ethyl acetate (500 mL) to separate the organic phase, the organic phase was washed with 50 ml of water and 50 ml of brine successively, dried via anhydrous magnesium sulfate and evaporated and the residual was purified via silica gel column chromatography to obtain 19.02 g tert-butyl-4-hydroxyphenylcarbamate as white solid with yield of 91.0%, m.p. 144-145° C.

reactant | p-aminophenol | 0.1 mol, 10.9 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium bicarbonate | 0.12 mol, 10.08 g | C([O-])(O)=O.[Na+]
reactant | water | 150 mL | O | H2O
reactant | di-tert-butyl dicarbonate | 0.115 mol, 25.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | tert-butyl-4-hydroxyphenylcarbamate | 19.02 g, yield of 91.0% | C(C)(C)(C)OC(NC1=CC=C(C=C1)O)=O | C11H15NO3
